US07414063B2
1-chloro-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide
A 5N NaOH solution (0.937 mL) is added slowly to a stirred suspension of 1-chloro-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide hydrochloride (1.51 g, 4.69 mmol) in THF (20 mL)/CH3OH (20 mL) at ambient temperature to form a clear solution. After concentration in vacuo, the tan solid is suspended in EtOAc/CH3OH and sonicated for a few minutes. The mixture is filtered and concentrated to give 1.21 g (4.23 mmol, 90% yield) of the title compound as a tan powder. ESIMS: m/z 286 [(M+H)+, 35Cl], 288 [(M+H)+, 37Cl].

reactant | NaOH | 5N, 0.937 mL | [OH-].[Na+]
reactant | 1-chloro-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide hydrochloride | 4.69 mmol, 1.51 g | Cl.NCCNS(=O)(=O)C=1C=2C=CN=C(C2C=CC1)Cl
reactant | CH3OH | 20 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-chloro-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide | 4.23 mmol, 1.21 g, 90% yield | NCCNS(=O)(=O)C=1C=2C=CN=C(C2C=CC1)Cl | C11H12ClN3O2S
